US07994185B2
Step D: 2,6-Difluoro-N-{2-(methyloxy)-3-[5-{2-[(2-methylpropyl)amino]-4-pyrimidinyl}-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide
Following a procedure analogous to the procedure described in Example 18, Step B using N-[3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-(methyloxy)phenyl]-2,6-difluorobenzenesulfonamide (150 mg, 0.259 mmol) and isobutylamine (0.259 mL, 2.59 mmol) the title compound was obtained as a yellow solid (17.8 mg, 11% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.31 (s, 1H), 7.78 (d, J=5.3 Hz, 1H), 7.59-7.70 (m, 1H), 7.33 (dd, J=7.9, 1.5 Hz, 1H), 7.20 (t, J=9.1 Hz, 2H), 6.97-7.15 (m, 3H), 5.53 (d, J=5.3 Hz, 1H), 3.66 (t, J=4.7 Hz, 4H), 3.40 (t, J=4.6 Hz, 4H), 3.20 (s, 3H), 2.99 (t, J=6.3 Hz, 2H), 1.64-1.85 (m, 1H), 0.83 (d, J=6.6 Hz, 6H). MS (ESI): 617.2 [M+H]+.

reactant | N-[3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-(methyloxy)phenyl]-2,6-difluorobenzenesulfonamide | 0.259 mmol, 150 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)OC | C24H20ClF2N5O4S2
reactant | isobutylamine | 2.59 mmol, 0.259 mL | C(C(C)C)N | C4H11N
product | 2,6-Difluoro-N-{2-(methyloxy)-3-[5-{2-[(2-methylpropyl)amino]-4-pyrimidinyl}-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide | FC1=C(C(=CC=C1)F)S(=O)(=O)NC1=C(C(=CC=C1)C=1N=C(SC1C1=NC(=NC=C1)NCC(C)C)N1CCOCC1)OC | C28H30F2N6O4S2
